US08420816B2
(R)-1-(2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3,3-dimethylbutanoyl)azetidine-3-carbonitrile
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3,3-dimethylbutanoic acid (25 mg, 0.078 mmol) under nitrogen. THF (0.5 mL), azetidine-3-carbonitrile hydrochloride (18.45 mg, 0.155 mmol), HATU and 4-methylmorpholine (11.79 mg, 0.117 mmol) were added and the solution was stirred at 25° C. for 1 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 15-40%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow semi-solid (4.1 mg, 13.7%). 1H NMR (400 MHz, CD3OD) δ 1.17 (s, 9 H) 3.50-3.78 (m, 1 H) 4.17 (br. s., 1 H) 4.25-4.37 (m, 1 H) 4.41-4.69 (m, 2 H) 5.17-5.30 (m, 2 H) 5.44 (s, 1 H) 7.87 (br. s., 1 H) 8.25 (s, 1 H). [M+H] calc'd for C19H20ClN5O2, 386; found, 386.4.

reactant | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3,3-dimethylbutanoic acid | 0.078 mmol, 25 mg | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)(C)C)=O)=CN2 | C15H16ClN3O3
reactant | azetidine-3-carbonitrile hydrochloride | 0.155 mmol, 18.45 mg | Cl.N1CC(C1)C#N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.117 mmol, 11.79 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-1-(2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3,3-dimethylbutanoyl)azetidine-3-carbonitrile | 4.1 mg, 13.7% | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)N1CC(C1)C#N)C(C)(C)C)=O)=CN2 | C19H20ClN5O2
